US06057335
Preparation of 5-(4-ethylphenyl)-3-(2-indanyl)carbonylaminopyrazole
3-(2-Indanyl)carbonylamino-5-(4-vinylphenyl)pyrazole (25.0 mg) was dissolved in ethanol (5.0 ml) to which was subsequently added 10% palladium-carbon (22 mg), and then the mixture was stirred under hydrogen atmosphere of 1 atmospheric pressure overnight. The catalyst was filtered off and then, the filtrate was concentrated under a reduced pressure to obtain the title compound (24.8 mg) as colorless crystals (melting point: 196-198° C.).

reactant | 3-(2-Indanyl)carbonylamino-5-(4-vinylphenyl)pyrazole | 25.0 mg | C1C(CC2=CC=CC=C12)C(=O)NC1=NNC(=C1)C1=CC=C(C=C1)C=C | C21H19N3O
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 22 mg | [C].[Pd]
product | 5-(4-ethylphenyl)-3-(2-indanyl)carbonylaminopyrazole | 24.8 mg | C(C)C1=CC=C(C=C1)C1=CC(=NN1)NC(=O)C1CC2=CC=CC=C2C1 | C21H21N3O
